US06582837B1
In a flask were placed 35 g of 9,9′-bianthryl and 300 mL of carbon tetrachloride, and to the vigorously stirred mixture was slowly added 40 g of bromine under cooling. After addition, the mixture was slowly warmed and then refluxed for 1 hour with stirring. Carbon tetrachloride was evaporated from the reaction mixture under a reduced pressure, the residual solid was extracted with carbon tetrachloride using a Soxhlet extractor. The extract was dried and concentrated to give 42 g(yield 81%) of 10,10′-dibromo-9,9′-bianthryl. Then, in a 100 mL three-necked flask were placed 25 g of 10,10′-dibromo-9,9′-bianthryl, 20 g of diphenylamine, 17 g of potassium carbonate, 0.4 g of copper powder and 80 mL of nitrobenzene, and the mixture was stirred at 200° C. for 30 hours. After completion of the reaction, toluene was added to the mixture. The mixture was filtered to remove inorganics. Toluene and nitrobenzene were evaporated under a reduced pressure. The residue was purified by column chromatography on silica gel eluting with a 1:2 mixture of toluene and ligroin, to give 19 g(yield: 55%) of 10,10′-bis(diphenylamino)-9,9′-bianthryl.

reactant | 10,10′-dibromo-9,9′-bianthryl | 25 g | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)Br | C28H16Br2
reactant | diphenylamine | 20 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | potassium carbonate | 17 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 80 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper | 0.4 g | [Cu] | Cu
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 10,10′-bis(diphenylamino)-9,9′-bianthryl | 19 g, yield: 55% | C1(=CC=CC=C1)N(C1=C2C=CC=CC2=C(C2=CC=CC=C12)C=1C2=CC=CC=C2C(=C2C=CC=CC12)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C52H36N2
